US08461175B2
A 150 ml round-bottomed flask equipped with a magnetic stirrer is charged under argon with 2 g of 4-N-boc-aminopiperidine in 35 ml of DCM, 82 mg of 4-dimethylaminopyridine (DMAP) and 1.86 ml of triethylamine. After cooling to 0° C. using an ice bath, 1.6 ml of trifluoromethanesulphonyl chloride are added dropwise. The mixture is stirred at 0° C. for 30 min and then at RT for 1 h. It is poured into 100 ml of saturated aqueous sodium bicarbonate solution. It is extracted with AcOEt, washed with saturated aqueous NaCl solution, dried over MgSO4, filtered and concentrated to dryness under RP. Chromatography on silica gel (15-40 μm), eluting with a mixture of DCM and methanol (98/02 by vol.), gives 1.5 g of 1,1-dimethylethyl (1-trifluoromethanesulphonylpiperidin-4-yl)carbamate (cream solid). MS (E/I): m/z=232 (M+).

reactant | 4-N-boc-aminopiperidine | 2 g | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | triethylamine | 1.86 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulphonyl chloride | 1.6 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 82 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1,1-dimethylethyl (1-trifluoromethanesulphonylpiperidin-4-yl)carbamate | 1.5 g | FC(S(=O)(=O)N1CCC(CC1)NC(OC(C)(C)C)=O)(F)F | C11H19F3N2O4S
